US07544689B2
(3RS,4S)-4-(Trityl-amino)-hexan-3-ol
To a stirred solution of (R)-2-(trityl-amino)-butyraldehyde (1.5 g, 1 eq, 4.53 mmol) in Et2O (150 mL) under an argon atmosphere at −78° C., was added ethylmagnesium bromide (3 M in Et2O, 1.51 mL, 1 eq, 4.53 mmol) dropwise. The solution was stirred at −78° C. for 2 h, then allowed to warm to room temperature over 16 h. The mixture was recooled to 0° C., H2O (150 mL) added, and the organic phase separated. The aqueous phase was extracted with more Et2O (2×50 mL), and the combined organic phase washed with brine (50 mL), dried (MgSO4) and evaporated in vacuo. The residue was purified by silica gel column chromatography, eluted with hexane:ether (90:10) to afford the title compound as a light yellow oil. Yield: 1.19 g (73%). (65% de 3R,4S: 35% de 3S,4S). 1H-NMR (d6-DMSO, 250 MHz): δ 0.46+0.69 (t & m, 6H, J=7.34 Hz, —NHCH(CH2CH3)CH(CH2CH3)OH), 1.13-1.29 (m, 4H, —NHCH(CH2CH3) CH(CH2CH3)OH), 2.17 (m, 1H, —NHCH(CH2CH3)CH(CH2CH3)OH), 2.55 (m, 1H, —NHCH(CH2CH3)CH(CH2CH3)OH), 3.20-3.39 (m, 1H, —NHCH(CH2CH3)CHCH2CH3)OH), 4.29 & 4.39 (2×d, 1H, J=4.74 & 5.53 Hz, —NHCH(CH2CH3)CH(CH2CH3)OH), 7.15-7.52 (m, 15H, 3×Ph).

reactant | (R)-2-(trityl-amino)-butyraldehyde | 4.53 mmol, 1.5 g, 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H](C=O)CC | C23H23NO
reactant | ethylmagnesium bromide | 4.53 mmol, 3 M, 1.51 mL, 1 eq | C(C)[Mg]Br
reactant | H2O | 150 mL | O | H2O
solvent | Et2O | 150 mL | CCOCC | C4H10O
product | (3RS,4S)-4-(Trityl-amino)-hexan-3-ol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H](C(CC)O)CC | C25H29NO
